Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fatigue, dyspnea on exertion 
 
Major Surgical or Invasive Procedure:
___
with Dr. ___
1.  Redo sternotomy.
2.  Redo aortic valve replacement with a 21 mm Epic supra
tissue valve.
3.  Resection of ascending aortic aneurysm and ascending
aortic replacement with a 30 mm Gelweave tube graft.
4.  Coronary artery bypass grafting x 1 with a left internal
mammary artery graft to left anterior descending.

___: 
Permanent Pacemaker Implant with Dr. ___
___ Pacemaker
___ 
Underlying rhythm: SR with first degree AV delay
Mode,base and upper track rate: AAI <--> DDD 60-130

 
History of Present Illness:
Mr. ___ is a very nice ___ year old ___ speaking man with a
history of aortic stenosis status post aortic valve replacement,
ascending aortic aneurysm, chronic kidney disease,
hyperlipidemia, and hypertension. He has been followed by
cardiology for his ascending aortic aneurysm. In ___ his
aneurysm measured 4.9 cm. A follow-up MRI on ___
demonstrated a 5.5 cm ascending thoracic aortic aneurysm as well
as a moderate hiatal hernia. Given the progression of his
aneurysm and his aortic stenosis, he was referred to Dr. ___ surgical consultation and re-do sternotomy and Bentall were
recommended.
 
Of note, patient recently presented to the emergency
room for evaluation of lightheadedness (___). He underwent
echocardiography which demonstrated stable findings from prior. 
He also underwent a VQ scan which showed low probability of
pulmonary embolism. He reports that since his emergency room
visit he has felt well.

Of note, he was seen in conjunction with ___ Interpreter. 

 
Past Medical History:
Aortic Stenosis
Ascending Aortic Aneurysm
Chronic Kidney Disease (baseline Cre 1.9)
Depression
Esophagitis/Gastroesophageal Reflux Disease
Hiatal Hernia
Hyperlipidemia
Hypertension 
Tick Borne Illness, ___ with thrombocytopenia
 
Social History:
___
Family History:
Mother died of complications following hernia repair. Father 
died of heart failure at ___.  

 
Physical Exam:
Admit PE:
General: NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [x] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] grade ______ 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+
[x]
Extremities: Warm [x], well-perfused [x] Edema [] absent_____
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
Femoral      Right: cath access Left: present
DP           Right: present  Left: present
___           Right: present  Left: present
Radial       Right: present  Left: present
Carotid Bruit:   Right: none appreciated    Left:none 
appreciated

Discharge PE:
Vital Signs I/O 
24 HR Data (last updated ___ @ 1127)
    Temp: 98.1 (Tm 98.5), BP: 119/79 (98-136/59-82), HR: 94 
(84-94), RR: 18 (___), O2 sat: 99% (93-99), O2 delivery: Ra
Fluid Balance (last updated ___ @ 1046)
  Last 8 hours  Total cumulative -100ml
    IN: Total 360ml, PO Amt 360ml
    OUT:  Total 460ml, Urine Amt 460ml
  Last 24 hours  Total cumulative -235ml
    IN: Total 600ml, PO Amt 600ml
    OUT:  Total 835ml, Urine Amt 835ml

General: primarily ___ speaking, NAD
Neurological: A&Ox2-3,  No focal deficits 
Cardiovascular: RRR, No MGR 
Respiratory: Clear, diminished bases
GI/Abdomen: Bowel sounds present, Soft, ND, NT
Extremities: 
Right Upper extremity   Warm  Edema none    
Left Upper extremity    Warm  Edema none 
Right Lower extremity   Warm  Edema none 
Left Lower extremity    Warm  Edema none 
Pulses:
DP             Right: P      Left: P
___             Right: P      Left: P 
Sternal: CDI, no erythema or drainage, Sternum stable 
 
Pertinent Results:
STUDIES:
___ Carotid
Right ICA no  stenosis. 
Left ICA <40% stenosis. 
Abnirmal left vertebral waveform.  Consider complimentary 
imaging if 
clinically indicated. 
.
Cardiac Cath
1. Calcified two vessel coronary artery disease worst in the mid 
LAD with diffuse slow pulsatile flow in
all epicardial coronary arteries and diffuse mild 
atherosclerosis.
2. Chronic moderate left ventricular diastolic heart failure.
3. Exertional dyspnea likely a result of both LAD CAD and 
underlying diastolic heart failure
exacerbated by physical activity.
4. Horizontal aortic root with dilated ascending aorta 
necessitating unusual coronary catheter to engage
the LMCA (with subselective engagement of the LAD and LCX).
.
TEE ___
PRE-OPERATIVE STATE: Pre-bypass assessment. Sinus rhythm.
Left Atrium ___ Veins: Dilated ___. No spontaneous 
echo contrast is seen in the ___.
Right Atrium (RA)/Interatrial Septum/Inferior Vena Cava (IVC): 
DIlated RA. Normal interatrial septum. No atrial septal defect 
by 2D/color flow Doppler.
Left Ventricle (LV): Mild symmetric hypertrophy. Normal cavity 
size.
Right Ventricle (RV): Normal free wall motion.
Aorta: Normal sinus diameter. Moderate ascending dilation. 
Normal arch diameter. Mild descending aorta dilation. No 
dissection. Complex (>4mm) arch atheroma. Complex (>4mm) 
descending atheroma.
Aortic Valve: Bioprosthesis. Well-seated prosthesis. Mild 
(>1.5cm2) stenosis. Mild-moderate [___] regurgitation. 
Eccentric, valvular jet.
Mitral Valve: Normal leaflets. Moderate leaflet calcification. 
Minimal stenosis. Moderate annular calcification.
Trace regurgitation. Central jet.
Tricuspid Valve: Normal leaflets. Mild [1+] regurgitation.
Pericardium: No effusion.
POST-OP STATE: The post-bypass TEE was performed at 16:02:00. AV 
paced rhythm.
Left Ventricle: Similar to preoperative findings. SImilar 
regional function. Global ejection fraction is normal.
Right Ventricle: No change in systolic function.
Aorta: An ascending aortic conduit is visualized with laminar 
flow. No dissection.
Aortic Valve: Bioprosthetic valve. Well seated prosthesis. 
Post-bypass, the peak aortic valve gradient is 17mmHg with a 
mean gradient of 8mmHg. No regurgitation.
Mitral Valve: No change in mitral valve morphology from 
preoperative state. Post-bypass, mean mitral valve gradient = 
5mmHg. No change in valvular regurgitation from preoperative 
state.
Tricuspid Valve: No change in tricuspid valve morphology vs. 
preoperative state. Mild [1+] valvular regurgitation.
Pericardium: No effusion.

TTE ___:
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with a normal cavity size. There is 
normal regional left ventricular systolic function. Overall left 
ventricular systolic function is hyperdynamic. Quantitative 
biplane left ventricular ejection fraction is 79 % (normal 
54-73%).
There is no left ventricular outflow tract gradient at rest or 
with Valsalva. Normal right ventricular cavity size with normal 
free wall motion. The aortic sinus is mildly dilated with normal 
ascending aorta diameter for gender. There is a normal 
descending aorta diameter. An aortic valve bioprosthesis is 
present. The prosthesis is well seated with normal leaflet 
motion and gradient. There is no aortic regurgitation. The 
mitral valve leaflets are mildly thickened with no mitral valve 
prolapse. There is mild functional mitral stenosis from the 
prominent mitral annular calcification. There is mild [1+] 
mitral regurgitation. The pulmonic valve leaflets are normal. 
The tricuspid valve leaflets appear structurally normal. There 
is mild [1+] tricuspid regurgitation. Due to acoustic shadowing, 
the severity of tricuspid regurgitation may be UNDERestimated. 
The estimated pulmonary artery systolic pressure is borderline 
elevated. There is no pericardial effusion.
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size. Hyperdynamic left ventricular systolic 
function without resting or inducible LVOT gradient. Well-seated 
aortic valve bioprosthesis with normal gradients. Mild calcific 
mitral stenosis. Mildly dilated ascending aorta.

PA/LAT CXR ___
IMPRESSION:  Overall unchanged left lower lobe collapse.  No 
increased pleural effusion or new consolidation. 

PATHOLOGY
PATHOLOGIC DIAGNOSIS:
1. Ascending thoracic aorta, replacement:
- Cystic medial degeneration, mild.
- Adventitial foreign body giant cell reaction to polarizable 
suture material, consistent with prior surgical site changes.
- No evidence of aortitis, dissection, or atherosclerosis.
2. Bioprosthetic aortic valve, explant:
Valve type: Bovine pericardial bioprosthetic valve.
Pathologic changes: Calcific degeneration, mild.  Obstructive 
tissue pannus overgrowth, moderate to severe.
.
MICRO:
___: UA & Urine C&S: pending
.
LABS:
Admit:
___ 03:00PM BLOOD WBC-6.7 RBC-4.66 Hgb-10.7* Hct-34.9* 
MCV-75* MCH-23.0* MCHC-30.7* RDW-16.1* RDWSD-43.4 Plt ___
___ 03:00PM BLOOD ___ PTT-30.3 ___
___ 03:00PM BLOOD Glucose-91 UreaN-29* Creat-1.9* Na-143 
K-4.3 Cl-112* HCO3-19* AnGap-12
___ 03:00PM BLOOD ALT-9 AST-17 LD(___)-259* AlkPhos-86 
TotBili-0.3
___ 02:20AM BLOOD Albumin-2.8* Calcium-7.9* Phos-5.6* 
Mg-3.0*
___ 03:00PM BLOOD %HbA1c-6.2* eAG-131*
___ 03:00PM BLOOD VitB12-362
___ 03:00PM BLOOD TSH-2.3

Discharge:
___ 05:43AM BLOOD WBC-15.2* RBC-4.17* Hgb-9.7* Hct-32.2* 
MCV-77* MCH-23.3* MCHC-30.1* RDW-17.3* RDWSD-47.6* Plt ___
___ 05:43AM BLOOD Glucose-101* UreaN-56* Creat-2.1* Na-138 
K-5.1 Cl-98 HCO3-27 AnGap-13
___ 02:05AM BLOOD ALT-13 AST-58* LD(___)-343* AlkPhos-67 
TotBili-0.3
___ 05:43AM BLOOD Mg-2.3
___ 05:21AM BLOOD Calcium-8.7 Phos-4.1 Mg-2.3
___ 05:04AM BLOOD WBC-16.8* RBC-3.84* Hgb-9.1* Hct-29.3* 
MCV-76* MCH-23.7* MCHC-31.1* RDW-17.2* RDWSD-47.1* Plt ___
 
Brief Hospital Course:
Mr. ___ was admitted to the ___ on ___ for surgical 
management of his valvular disease. He was worked-up in the 
usual fashion including a cardiac catheterization which showed 
no significant coronary artery disease. A carotid ultrasound 
showed no significant stenosis. On ___, Mr. ___ was taken 
to the operating room where he underwent a redo sternotomy, Redo 
aortic valve replacement with a 21 mm Epic supra tissue valve, 
Resection of ascending aortic aneurysm and ascending aortic 
replacement with a 30 mm Gelweave tube graft, CABG x 1 with a 
left internal mammary artery graft to left anterior descending 
artery.  Please see operative note for details.  
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable.  He did have post-operative 
delirium.  He was transferred to the step down unit POD 1 for 
further recovery.  His chest tubes and wires were removed per 
protocol.  He had a small L pneumothorax, but this has resolved. 
 While on his full-dose home carvedilol 12.5 bid on ___, he had 
6 second ventricular pauses were noted on telemetry, with 
decreased mentation during episodes. His carvedilol was stopped 
and he was transferred to ___ for further management. EP was 
consulted and it was determined he would benefit from a 
permanent pacer.  ___ pacer was placed ___. He was 
gently diuresed toward the preoperative weight with acute kidney 
injury on CRI. His peak creatinine was 2.7 from baseline 1.9.  
On POD 11, he two brief episodes of unresponsiveness after 
standing and Neurology was consulted.  They suspect that his 
symptoms are due to orthostatic hypotension and did not 
recommend further intensive work up.  Fall precautions and 
gentle diuresis were recommended.  He was evaluated by the 
Physical Therapy service for assistance with strength and 
mobility.  He has had persistent mild leukocytosis without 
fevers or obvious signs of infection, so we are requesting 
repeat ___ check on ___ with result called to Dr. ___ 
___.  Repeat UA and Urine culture are also pending.  By the 
time of discharge on POD 13 the patient was ambulating freely, 
the wound was healing and pain was controlled with oral 
analgesics.  The patient was discharged to ___ in 
___ in good condition with appropriate follow up 
instructions.  Some of his preoperative medications are being 
held until his SBP is consistently >120, including his Coreg. 
  

 
Medications on Admission:
1. Atorvastatin 20 mg PO QPM 
2. CARVedilol 12.5 mg PO BID 
3. Donepezil 10 mg PO QHS 
4. Doxazosin 1 mg PO HS 
5. LORazepam 0.5 mg PO DAILY:PRN prn 
6. Memantine 10 mg PO BID 
7. Omeprazole 40 mg PO BID 
8. Venlafaxine XR 225 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB  
3.  Bisacodyl ___AILY:PRN constipation  
4.  Docusate Sodium 100 mg PO BID  
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Second 
Line  
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 20 mg PO QPM  
8.  Donepezil 10 mg PO QHS  
9.  Memantine 10 mg PO BID  
10.  Omeprazole 40 mg PO BID  
11.  Venlafaxine XR 225 mg PO DAILY  
12. HELD- CARVedilol 12.5 mg PO BID  This medication was held. 
Do not restart CARVedilol until SBP consistently >120
13. HELD- Doxazosin 1 mg PO HS  This medication was held. Do not 
restart Doxazosin until SBP consistently >120

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Aortic Stenosis s/p tiss AVR
Ascending Aortic Aneurysm s/p grafting
Coronary artery disease s/p CABG x1
High grade AV nodal block s/p PPM
Acute kidney injury
Chronic Kidney Disease (baseline Cre 1.9)
Postop orthostatic syncope

Secondary:
Depression
Esophagitis/Gastroesophageal Reflux Disease
Hiatal Hernia
Hyperlipidemia
Hypertension 
Tick Borne Illness, ___ with thrombocytopenia

 
Discharge Condition:
Alert and oriented x3, non-focal
 Ambulating, gait steady
 Sternal pain managed with oral analgesics
 Sternal Incision & PPM incision - healing well, no erythema or  
drainage
 Edema - none

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks

Encourage full shoulder range of motion, unless otherwise 
specified
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___